US08183280B2
D. (2S)—N-(tert-Butyloxycarbonyl)-4,4-difluoropyrrolidine-2-carboxamide
(2S)—N-(tert-Butyloxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylic acid (1.0 g, 4.0 mmol) was dissolved in CH2Cl2/DMF (9:1, 50 ml). To this solution at 0° C. was added 1-hydroxybenzotriazole hydrate (1.1 g, 8.1 mmol) and water soluble carbodiimide (960 mg, 4.8 mmol). After 1 h at 0° C. ammonia (35%, 5 ml) was added. After 18 h at 0° C. to room temperature the solvent was removed in vacuo and the residue was taken up in ethyl acetate (200 ml). This solution was washed with 0.3M KHSO4, sat. NaHCO3, water and brine, dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash chromatography (eluant: 85% ethyl acetate, 15% Pet. ether ° C.) to give a colourless oil identified as the title compound (945 mg, 3.8 mmol, 95%).

reactant | (2S)—N-(tert-Butyloxycarbonyl)-4,4-difluoropyrrolidine-2-carboxylic acid | 4.0 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)(F)F)C(=O)O | C10H15F2NO4
reactant | 1-hydroxybenzotriazole hydrate | 8.1 mmol, 1.1 g | O.ON1N=NC2=C1C=CC=C2
reactant | water soluble carbodiimide | 4.8 mmol, 960 mg | CCN=C=NCCCN(C)C.Cl
reactant | ammonia | 5 ml | N | H3N
reactant | CH2Cl2 DMF | 50 ml | C(Cl)Cl.CN(C)C=O
product | (2S)—N-(tert-Butyloxycarbonyl)-4,4-difluoropyrrolidine-2-carboxamide | 3.8 mmol, 945 mg, 95% | C(C)(C)(C)OC(=O)NC(=O)[C@H]1NCC(C1)(F)F | C10H16F2N2O3
